US07507736B2
b) 6-Bromo-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carboxylic acid ethyl ester
To a suspension of 5.7 g (20.0 mmol) 6-bromo-5-hydroxy-1H-indole-2-carboxylic acid ethyl ester in 120 mL tetrahydrofuran, 3.44 g (24.0 mmol) isopropyl-piperidin-4-ol and 6.30 g (24.0 mmol) triphenylphosphine were added. The suspension was cooled to 0° C. and 5.53 g (24.0 mmol) di-tert-butyl azodicarboxylate was added. The ice bath was removed and the reaction mixture was stirred for 18 h at room temperature. The volatile components were removed and the residue was chromatographed on silica gel with dichloromethane:methanol:ammonia (9:1:0.1 v/v) as eluant to afford 6.2 g (76%) of the compound as a light-yellow foam.

reactant | 6-bromo-5-hydroxy-1H-indole-2-carboxylic acid ethyl ester | 20.0 mmol, 5.7 g | C(C)OC(=O)C=1NC2=CC(=C(C=C2C1)O)Br | C11H10BrNO3
reactant | isopropyl-piperidin-4-ol | 24.0 mmol, 3.44 g | C(C)(C)N1CCC(CC1)O | C8H17NO
reactant | triphenylphosphine | 24.0 mmol, 6.30 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 24.0 mmol, 5.53 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | 6-Bromo-5-(1-isopropyl-piperidin-4-yloxy)-1H-indole-2-carboxylic acid ethyl ester | 6.2 g, 76% | C(C)OC(=O)C=1NC2=CC(=C(C=C2C1)OC1CCN(CC1)C(C)C)Br | C19H25BrN2O3
